US09428465B2
5-Chloro-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 1, starting from 5-chlorouracil (0.10 g, 0.68 mmol); 1.2 equivalents of hexyl isocyanate were used herein. The crude was purified by column chromatography using a Teledyne ISCO apparatus (petroleum ether:EtOAc from 70:30 to 50:50) to afford the title compound (0.06 g, 31%) as white powder. 1H NMR (400 MHz, DMSO-d6): δ 0.86 (t, J=6.8 Hz, 3H), 1.21-1.35 (m, 6H), 1.46-1.54 (m, 2H), 3.24-3.29 (m, 2H), 8.41 (s, 1H), 9.07 (t, J=5.3 Hz, 1H), 12.24 (s, 1H). 13C NMR (101 MHz, DMSO-d6) δ 13.85, 21.97, 25.81, 28.57, 30.82, 40.55, 109.55, 135.56, 149.21, 150.61, 158.78. MS (ESI) m/z: 272 [M-H]−.

reactant | 5-chlorouracil | 0.68 mmol, 0.10 g | ClC=1C(NC(NC1)=O)=O | C4H3ClN2O2
reactant | hexyl isocyanate | 1.2 equivalents | C(CCCCC)N=C=O | C7H13NO
product | 5-Chloro-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.06 g, 31% | ClC=1C(NC(N(C1)C(=O)NCCCCCC)=O)=O | C11H16ClN3O3
